US08314088B2
(2S)-1-{benzyl[(3,5-dichloropyrazin-2-yl)methyl]amino}propan-2-ol
To a solution of 3,5-dichloropyrazine-2-carbaldehyde (3.0 g), (2S)-1-(benzylamino)propan-2-ol (3.36 g) and acetic acid (4.9 mL) in THF (50 mL) was added sodium triacetoxyborohydride (7.18 g), and the mixture was stirred at room temperature overnight. The reaction solution was diluted with ethyl acetate, and basified with saturated aqueous sodium hydrogen carbonate. The organic layer was separated, washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (solvent gradient: 5→25% ethyl acetate/hexane) to give the title compound (3.48 g, 63%) as a pale-yellow oil.

reactant | 3,5-dichloropyrazine-2-carbaldehyde | 3.0 g | ClC=1C(=NC=C(N1)Cl)C=O | C5H2Cl2N2O
reactant | (2S)-1-(benzylamino)propan-2-ol | 3.36 g | C(C1=CC=CC=C1)NC[C@H](C)O | C10H15NO
reactant | sodium triacetoxyborohydride | 7.18 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 4.9 mL | C(C)(=O)O | C2H4O2
product | (2S)-1-{benzyl[(3,5-dichloropyrazin-2-yl)methyl]amino}propan-2-ol | 3.48 g, 63% | C(C1=CC=CC=C1)N(C[C@H](C)O)CC1=NC=C(N=C1Cl)Cl | C15H17Cl2N3O
